US06559293B1
5.6.1. Synthesis of Topiramate Potassium
A 20 mL scintillation vial was loaded with 556.8 mg (1.641 mmols) of topiramate (Cheminor Drugs Ltd., Hyderabad, India, Batch TP001.J00) and 1 mL THF (Sigma, St. Louis, Mo. USA, 99.0+%, Lot 50k1485), and all of the topiramate dissolved. 89.9 mg (1.602 mmols) of solid KOH (Spectrum, Lot PN0690) was dissolved in the topiramate/THF solution. The solution was allowed to evaporate overnight at room temperature leaving an amorphous solid. The solid was further dried by placing it in a vacuum desiccator 1 white brittle solid.

reactant | topiramate | 1.641 mmols, 556.8 mg | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | KOH | [OH-].[K+]
solvent | topiramate THF | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C.C1CCOC1
product | Topiramate Potassium | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)[NH-])C.[K+] | InChI=1S/C12H20NO8S.K/c1-10(2)18-7-5-16-12(6-17-22(13,14)15)9(8(7)19-10)20-11(3,4)21-12;/h7-9H,5-6H2,1-4H3,(H-,13,14,15);/q-1;+1/t7-,8-,9+,12+;/m1./s1
